US04806564
49 mg (0.144 mmole) of Methyl 11-(3-hydroxymethyl-4-oxo-2-oxetanyl)-3,5,7-trimethyl-2,4-undecadienoate in 5 ml of EtOAc was added 3 mg of platinium oxide. This mixture was hydrogenated at room temperature and 1 atom for N30 minutes (NO. 144 mmole (1 eq) of hydrogen was consumed). The solution was filtered and the filtrate was concentrated to dryness afforded methyl 11-(3-hydroxymethyl-4-oxo-2-oxetanyl)-3,5,7-trimethyl-2-undecenoate.

reactant | Methyl 11-(3-hydroxymethyl-4-oxo-2-oxetanyl)-3,5,7-trimethyl-2,4-undecadienoate | 0.144 mmole, 49 mg | OCC1C(OC1=O)CCCCC(CC(=CC(=CC(=O)OC)C)C)C | C19H30O5
reactant | hydrogen | 144 mmole, 1 eq | [H][H] | H2
solvent | EtOAc | 5 ml | CCOC(=O)C | C4H8O2
catalyst | platinium oxide | 3 mg | O=[Pt]=O
product | methyl 11-(3-hydroxymethyl-4-oxo-2-oxetanyl)-3,5,7-trimethyl-2-undecenoate | OCC1C(OC1=O)CCCCC(CC(CC(=CC(=O)OC)C)C)C | C19H32O5
